US06919377B2
In a manner similar to Example 16, trans-4-[4-(3-phenylpropylanino)cyclohexyl]phenol was allowed to react with acetic anhydride to give trans-N-[4-(4-hydroxyphenyl)cyclohexyl]-N-(3-phenylpropyl) acetamide. Yield (90 mg, 2%): mp 175-180° C.; IR (KBr): 3240, 2929, 1620, 1590 cm−1; 1H NMR (300 MHz, DMSO-d6) δ 9.11 (s, 1H), 7.30-7.17 (m, 5H), 7.00 (d, J=9 Hz, 2H), 6.69 (dd, J=9, 2 Hz, 2H), 3.37 (m, 1H), 3.25 (m, 4H), 2.61 (m, 2H), 2.41 (m, 1H), 2.10 (s, 3H), 1.87-1.75 (m, 4H), 1.72-1.46 (m, 4H); CI-MS (methane) (m/z): 352 [M+H]+; HRMS-API (m/z): [M+H]+ Calcd for C23H29NO2, 352.2276. found: 352.2278. HPLC: method A, 12.08 minutes (97.3%); method B, 16.36 minutes (98.9%); Anal. Calcd for C23H29NO2.0.75H2O: C, 75.67; H, 8.43; N, 3.84. Found: C, 75.40; H, 7.93; N, 3.78.

reactant | trans-4-[4-(3-phenylpropylanino)cyclohexyl]phenol | C1(=CC=CC=C1)CCCN[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O | C21H27NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | trans-N-[4-(4-hydroxyphenyl)cyclohexyl]-N-(3-phenylpropyl) acetamide | OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N(C(C)=O)CCCC1=CC=CC=C1 | C23H29NO2
